US06924376B2
d) 3-Benzyl-7-chloro-2-[2-methyl-1-(2-p-tolyl-4,5-dihydro-imidazol-1-yl)-propyl]-chromen-4-one
A mixture of N-{2-[1-(3-benzyl-7-chloro-4-oxo-4H-chromen-2-yl)-2-methyl-propylamino]-ethyl}-4-methyl-benzamide (2.8 g, 5.5 mmol) and phosphorus oxychloride (9.4 mL, 100 mmol) in toluene (60 mL) was heated at 85° C. for 7 hours, then heated at reflux for 1 hour. The reaction was concentrated and the residual phosphorus oxychloride removed by toluene azeotrope. The residue was diluted with ethyl acetate (100 mL) and washed with saturated sodium bicarbonate (100 mL) and brine (100 mL), dried over magnesium sulfate, and concentrated. The resultant residue was purified by flash chromatography (0→8% methanol/methylene chloride) to give 1.4 g (50%) of the title compound. MS (ES+) m/e 485 [M+H]+.

reactant | N-{2-[1-(3-benzyl-7-chloro-4-oxo-4H-chromen-2-yl)-2-methyl-propylamino]-ethyl}-4-methyl-benzamide | 5.5 mmol, 2.8 g | C(C1=CC=CC=C1)C1=C(OC2=CC(=CC=C2C1=O)Cl)C(C(C)C)NCCNC(C1=CC=C(C=C1)C)=O | C30H31ClN2O3
reactant | phosphorus oxychloride | 100 mmol, 9.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Benzyl-7-chloro-2-[2-methyl-1-(2-p-tolyl-4,5-dihydro-imidazol-1-yl)-propyl]-chromen-4-one | 1.4 g, 50% | C(C1=CC=CC=C1)C1=C(OC2=CC(=CC=C2C1=O)Cl)C(C(C)C)N1C(=NCC1)C1=CC=C(C=C1)C | C30H29ClN2O2
